US05489600
Dissolve lauric acid (0.77 g) in methylene chloride (50mL) and cool to 0° C. Add oxalyl chloride (0.37 mL) and dimethylformamide (3 drops). Allow to warm to room temperature and stir for 1 hour. Add, by dropwise addition, to a solution of 3-(O-tert-butyldimethylsilyloxy)piperidine (0.76 g, 3.5 mmol) and triethylamine (1 mL) in methylene chloride (20 mL). Stir overnight. Dilute with methylene chloride (50 mL) and separate the organic phase. Wash twice with 10% sodium hydroxide, once with 10% hydrochloric acid, and once with saturated sodium hydrogen carbonate and once with brine. Dry (Na2SO4) and evaporate the solvent in vacuo to give 1-oxododecyl-3-(O-tert-butyldimethylsilyoxy)piperidine.

reactant | lauric acid | 0.77 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | oxalyl chloride | 0.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(O-tert-butyldimethylsilyloxy)piperidine | 3.5 mmol, 0.76 g | [Si](C)(C)(C(C)(C)C)OC1CNCCC1 | C11H25NOSi
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-oxododecyl-3-(O-tert-butyldimethylsilyoxy)piperidine | O=C(CCCCCCCCCCC)N1CC(CCC1)O[Si](C)(C)C(C)(C)C | C23H47NO2Si
